US08058441B2
(c). 1-Acetyl-6-(2-methylsulfonyloxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Sulfonylation of 1-acetyl-6-(2-hydroxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (12 mg) with methylsulfonyl chloride (6.5 μl) was performed in pyridine (1 ml). TLC analysis after stirring for 16 h showed conversion to a higher-running product. The mixture was concentrated, the residue was dissolved in dichloromethane and washed with water. The organic layer was dried (Na2SO4) and concentrated in vacuo. The crude product was purified by silica gel column chromatography. Eluent: heptane/ethyl acetate=8/2 (v/v).

reactant | 1-acetyl-6-(2-hydroxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 12 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C=CC=C1)O)=O)(C)C1=CC=CC=C1)(C)C | C27H28N2O3
reactant | methylsulfonyl chloride | 6.5 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 1-Acetyl-6-(2-methylsulfonyloxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C=CC=C1)OS(=O)(=O)C)=O)(C)C1=CC=CC=C1)(C)C | C28H30N2O5S
